US08227498B2
3-(4-methyl-1H-imidazol-1-yl)propan-1-amine (9)
2-(3-(4-methyl-1H-imidazol-1-yl)propyl)isoindoline-1,3-dione (3.42 mmol, 1 eq.) and hydrazine monohydrate (6.84 mmol, 2 eq.) were dissolved in 20 mL of ethanol and the mixture was stirred for 12 h under reflux. The mixture was kept under reflux over night, then mixture was concentrated down to a volume of 25 mL. After that hydrochloric acid (conc., 55 mL) was added and the mixture was heated up to 50° C. for and kept at this temperature for 30 min. The formed precipitate was filtered off. The filtrate was cooled down to 0° C. and solid NaOH was added until a final pH-value of 10-12 is reached. The aqueous solution was extracted by means of CHCl3 (3×50 mL). The combined organic layers were dried over Na2SO4, filtered and the solvent was removed. The product was purified by means of flash-chromatography using silica gel and a CHCl3/MeOH-gradient containing aqueous ammonia (2% v/v).

reactant | 2-(3-(4-methyl-1H-imidazol-1-yl)propyl)isoindoline-1,3-dione | 3.42 mmol, 1 eq. | CC=1N=CN(C1)CCCN1C(C2=CC=CC=C2C1=O)=O | C15H15N3O2
reactant | hydrazine monohydrate | 6.84 mmol, 2 eq. | O.NN
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-(4-methyl-1H-imidazol-1-yl)propan-1-amine | CC=1N=CN(C1)CCCN | C7H13N3
